US06649611B2
(2R,5S)-2-(2-Aminomethyl-4-chloro-phenoxy)-1-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-ethanone
To a solution of (2R,5S)-5-chloro-2-{2-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzaldehyde (1.86 g, 4.44 mmol) in MeOH (20 mL) was added ammonium acetate (3.42 g, 44 mmol) and sodium cyanoborohydride (0.195 g, 3.1 mmol). The resulting mixture was stirred overnight at ambient temperature. The reaction was quenched with concentrated hydrochloric acid and concentrated in vacuo. The residue was dissolved in water and basified with aqueous 3N NaOH (pH>10). The product was extracted with dichloromethane (2×) and ethyl acetate (2×). The combined organics were dried over magnesium sulfate, filtered and concentrated in vacuo. Chromatography on silica gel gave the title compound (1.29 g, 69% yield)

reactant | (2R,5S)-5-chloro-2-{2-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-2-oxo-ethoxy}-benzaldehyde | 4.44 mmol, 1.86 g | ClC=1C=CC(=C(C=O)C1)OCC(=O)N1[C@@H](CN([C@H](C1)C)CC1=CC=C(C=C1)F)C | C22H24ClFN2O3
reactant | ammonium acetate | 44 mmol, 3.42 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 3.1 mmol, 0.195 g | C(#N)[BH3-].[Na+]
solvent | MeOH | 20 mL | CO | CH4O
product | (2R,5S)-2-(2-Aminomethyl-4-chloro-phenoxy)-1-[4-(4-fluoro-benzyl)-2,5-dimethyl-piperazin-1-yl]-ethanone | 1.29 g, 69% yield | NCC1=C(OCC(=O)N2[C@@H](CN([C@H](C2)C)CC2=CC=C(C=C2)F)C)C=CC(=C1)Cl | C22H27ClFN3O2
